US04490392
A mixture of the α-(α-methyl-3,4-methylenedioxyphenethylimino)-2-benzyloxyacetophenone solution obtained in paragraph (2), 1.25 g of sodium borohydride and 30 ml of ethanol is treated in the same manner as described in Example 1-(3), whereby α-[(α-methyl-3,4-methylenedioxyphenethylamino)methyl]-2-benzyloxybenzylalcohol [the mixture of two diastereoisomers] is obtained as a caramel. Said benzylalcohol [i.e., the mixture of two diastereoisomers] is treated with ethanolic hydrogen chloride to convert it into its hydrochloride, and the hydrochloride is recrystallized from ethanol. The crystalline precipitates are collected by filtration (the filtrate is hereinafter referred to as "mother liquor"). 2.37 g of α-[(α-methyl-3,4-methylenedioxyphenethylamino)methyl]-2-benzyloxybenzylalcohol hydrochloride [the diastereoisomer of M.p. 185°-187° C.] are thereby obtained.

reactant | α-[(α-methyl-3,4-methylenedioxyphenethylamino)methyl]-2-benzyloxybenzylalcohol | CC(CC1=CC2=C(C=C1)OCO2)NCC(C2=C(C=CC=C2)OCC2=CC=CC=C2)O | C25H27NO4
reactant | benzylalcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | hydrogen chloride | Cl | ClH
product | α-[(α-methyl-3,4-methylenedioxyphenethylamino)methyl]-2-benzyloxybenzylalcohol hydrochloride | 2.37 g | Cl.CC(CC1=CC2=C(C=C1)OCO2)NCC(C2=C(C=CC=C2)OCC2=CC=CC=C2)O | InChI=1S/C25H27NO4.ClH/c1-18(13-20-11-12-24-25(14-20)30-17-29-24)26-15-22(27)21-9-5-6-10-23(21)28-16-19-7-3-2-4-8-19;/h2-12,14,18,22,26-27H,13,15-17H2,1H3;1H
